US07648979B2
c) 5-(4-tert-Butoxycarbonyl-[1,4]diazepane-1-carbonyl)-1-isopropyl-1H-indole-2-carboxylic acid ethyl ester
To a solution of 5-(4-tert-butoxycarbonyl-[1,4]diazepane-1-carbonyl)-1H-indole-2-carboxylic acid ethyl ester (1.55 g, 3.5 mmol) in acetonitrile (25 ml) under an argon atmosphere were added caesium carbonate (2 eq., 2.44 g) and isopropylmethanesulfonate (2 eq., 1.03 g). The mixture was heated at 95° C. (oil-bath temperature) overnight. The mixture was cooled to room temperature and evaporated under reduced pressure. The crude product was purified by column chromatography on silica gel (3:1 heptane/ethyl acetate eluant) to afford the product as a light-brown oil (1.6 g, 93%). MS (m/z): 458.3 (M+H)+.

reactant | 5-(4-tert-butoxycarbonyl-[1,4]diazepane-1-carbonyl)-1H-indole-2-carboxylic acid ethyl ester | 3.5 mmol, 1.55 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)C(=O)N1CCN(CCC1)C(=O)OC(C)(C)C | C22H29N3O5
reactant | caesium carbonate | 2.44 g, 2 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | isopropylmethanesulfonate | 1.03 g, 2 eq. | C(C)(C)CS(=O)(=O)[O-]
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 5-(4-tert-Butoxycarbonyl-[1,4]diazepane-1-carbonyl)-1-isopropyl-1H-indole-2-carboxylic acid ethyl ester | 1.6 g, 93% | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)C(=O)N1CCN(CCC1)C(=O)OC(C)(C)C)C(C)C | C25H35N3O5
